US08859602B2
4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-phenyl]-amide
The title compound was prepared as described in Example 1, step (h) using 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in Example 1, step (g) and 2,2,6,6-tetramethyl tetrahydropyran-4-one (WO 2005012220). 1H-NMR (CD3OD; 400 MHz): δ 8.16 (d, 1H, J=8.4 Hz), 7.98 (s, 1H), 7.38 (dd, 1H, J=8.4, 2.0 Hz), 7.34 (d, 1H, J=2.0 Hz), 5.74 (br s, 1H), 2.32 (m, 2H), 2.08 (m, 2H), 1.87 (m, 4H), 1.56-1.58 (m, 8H), 1.56 (s, 6H), 1.21 (s, 6H).

reactant | 4-cyano-1H-imidazole-2-carboxylic acid [4-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | BrC1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C19H19BrN4O
reactant | 2,2,6,6-tetramethyl tetrahydropyran-4-one | CC1(OC(CC(C1)=O)(C)C)C | C9H16O2
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(4-hydroxy-2,2,6,6-tetramethyl-tetrahydro-pyran-4-yl)-phenyl]-amide | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1(CC(OC(C1)(C)C)(C)C)O)NC(=O)C=1NC=C(N1)C#N)C | C28H36N4O3
